
*Circuito t1

*Guardar correntes
.options savecurrents

*Resistencias
R1 4 3 1.04005394176k;
R2 2 3 2.07146823978k;
R3 3 6 3.06015694112k; fixo
R4 6 5 4.13750728298k;
R5 6 1 3.13205467735k;
R6 8 7 2.01065636997k; fixo
R7 7 0 1.00318758033k;

*Fontes Independentes
Va 4 5 5.14514577871V
Id 0 1 DC 1.03830911265m
Vc 5 8 0V; nó 8 ligado a nó 5 e R6

*Fontes Dependentes
Hc 6 0 Vc 8.3495605781k;
Gb 1 2 (3,6) 7.04881622155m;

.control

*Simulação
op

echo "I_TAB"
print @gb[i]
print @r1[i]
print @r2[i]
print @r3[i]
print @r4[i]
print @r5[i]
print @r6[i]
print @r7[i]
print hc#branch
print va#branch
echo "I_END"



echo  "V_TAB"
print V(1)
print V(2)
print V(3)
print V(4)
print V(5)
print V(6)
print V(7)
print V(8)
echo  "V_END"

quit
.endc

.end
